US08198269B2
Synthesis of (±)-(4aR*,6R*,8aS*)-8a-[2-fluoro-5-(2-fluoropyridin-3-yl)phenyl]-6-trifluoromethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine
2-Fluoropyridine-3-boronic acid (63.9 mg), tetrakis(triphenylphosphine)palladium (26.2 mg) and a 1 N sodium carbonate solution (453 μl) were added to a solution of (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,6R*,8aS*)-8a-(5-bromo-2-fluorophenyl)-6-trifluoromethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine (138 mg) in DMF (9.9 ml), and the mixture was stirred in a nitrogen atmosphere at 85° C. for seven hours. The reaction solution was cooled to room temperature and then diluted with ethyl acetate. The organic layer was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. Dichloromethane (4.0 ml) and TFA (1.0 ml) were added to the residue, and the mixture was stirred at room temperature for four hours. When the reaction was completed, the reaction solution was diluted with dichloromethane and ice was added, followed by neutralization with a sodium bicarbonate solution. The aqueous layer was extracted with chloroform, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by NH-silica gel column chromatography. The resulting white solid was washed with diethyl ether to obtain the title compound (14.0 mg).

reactant | 2-Fluoropyridine-3-boronic acid | 63.9 mg | FC1=NC=CC=C1B(O)O | C5H5BFNO2
reactant | sodium carbonate | 1 N, 453 μl | C([O-])([O-])=O.[Na+].[Na+]
reactant | (±)-N,N-di(tert-butyloxycarbonyl)-[(4aR*,6R*,8aS*)-8a-(5-bromo-2-fluorophenyl)-6-trifluoromethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-yl]amine | 138 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C1=N[C@]2(CO[C@H](C[C@H]2CS1)C(F)(F)F)C1=C(C=CC(=C1)Br)F | C24H29BrF4N2O5S
solvent | DMF | 9.9 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 26.2 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (±)-(4aR*,6R*,8aS*)-8a-[2-fluoro-5-(2-fluoropyridin-3-yl)phenyl]-6-trifluoromethyl-4,4a,5,6,8,8a-hexahydro-7-oxa-3-thia-1-azanaphthalen-2-ylamine | 14.0 mg | FC1=C(C=C(C=C1)C=1C(=NC=CC1)F)[C@@]12CO[C@H](C[C@H]2CSC(=N1)N)C(F)(F)F | C19H16F5N3OS
